2108-01-03 00:37:00 Physician Attending Progress Note
Chief Complaint: resp failure, suicide attempt
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   68M worsening symptoms of depression, found this morning unresponsive
   with suicide note. Brought to ER by EMS, NG tube placed and coffee
   ground found which cleared. Empty bottles at house were paxil and
   seroquel.
   Tox screen also positive for methadone and ASA. Intiubated in the ER
   becasue of poor mental status. Hct stable so EGD deferred. Transferred
   to ICU and given 1 unit PRBCs.
   24 Hour Events:
   History obtained from housestaff
   Patient unable to provide history: Sedated
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   depression
   HTN
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-1-3**] 12:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**09**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.6
   HR: 91 (75 - 96) bpm
   BP: 110/65(76) {89/51(59) - 122/75(87)} mmHg
   RR: 20 (17 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.6 kg (admission): 65.6 kg
             Total In:
                                                                  1,414 mL
                                                                      4 mL
   PO:
             TF:
   IVF:
                                                                  1,064 mL
                                                                      4 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    300 mL
                                                                      0 mL
   Urine:
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,114 mL
                                                                      4 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 6
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.40/36/168//-1
   Ve: 10.6 L/min
   PaO2 / FiO2: 420
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   193
   1.9
   28.5 %
   13.6
        [image002.jpg]
                             [**2108-1-2**]  07:59 PM
                             [**2108-1-2**]  10:29 PM
   Hct
   28.5
   TCO2
   23
   Other labs: PT / PTT / INR://1.1
   Fluid analysis / Other labs: 7.40/36/168
   Imaging: CXR right perihilar infiltrates, ETT OK
   Head CT - prelim negative
   ECG: NSR 112, normal intervals
   Assessment and Plan
   suicide attempt, poor mental status, respiratory failure - continue
   supportive care, follow EKG, follow for signs of serotonin syndrome,
   continue vent support with hope for extubation in AM. Follow ASA level
   and labs
   ? right infiltrates - possible aspiration, repeat CXR in AM
   UGIB - suspect gastritis, continue PPI, follow Hct, likely EGD in AM
   renal insufficiancy - unknown baseline, IVF, follow
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2108-1-2**] 08:00 PM
   20 Gauge - [**2108-1-2**] 08:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 36 minutes
   Patient is critically ill

2108-01-03 07:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2108-1-2**] 07:30 PM
 EKG - At [**2108-1-2**] 10:04 PM
   - ABG obtained on admission to floor, 7.40/36/168/23
   - Hypotension improved after weaning off propofol
   - Repeat EKG at 0100 415 QTc interval
   - GI scope in morning showing 30+ pills in fundus with gastritis,
   oozing of blood
   - Toxicology recommended activated charcoal, ASA/EKG at noon and 4pm
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Propofol - 10 mcg/Kg/min
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Propofol - [**2108-1-3**] 06:37 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-1-3**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**09**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 94 (75 - 96) bpm
   BP: 120/70(83) {89/51(59) - 122/75(87)} mmHg
   RR: 19 (17 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.6 kg (admission): 65.6 kg
             Total In:
                                                                  1,454 mL
                                                                    167 mL
   PO:
             TF:
   IVF:
                                                                  1,104 mL
                                                                    167 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    300 mL
                                                                    680 mL
   Urine:
                                                                    300 mL
                                                                    680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,154 mL
                                                                   -513 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 624 (551 - 640) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 32
   PIP: 6 cmH2O
   SpO2: 97%
   ABG: 7.40/36/168/22/-1
   Ve: 11.1 L/min
   PaO2 / FiO2: 420
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Pupils noreactive bilaterally, 3mm
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: Supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  Soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding
   GU: Foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   134 K/uL
   10.6 g/dL
   109 mg/dL
   1.4 mg/dL
   22 mEq/L
   3.9 mEq/L
   29 mg/dL
   112 mEq/L
   143 mEq/L
   30.8 %
   12.8 K/uL
        [image002.jpg]
                             [**2108-1-2**]  07:59 PM
                             [**2108-1-2**]  10:29 PM
                             [**2108-1-3**]  01:45 AM
   WBC
   12.8
   Hct
   28.5
   30.8
   Plt
   134
   Cr
   1.4
   TCO2
   23
   Glucose
   112
   109
   Other labs: PT / PTT / INR:14.7/26.8/1.3, ALT / AST:25/63, Alk Phos / T
   Bili:74/0.8, Albumin:2.9 g/dL, Ca++:7.2 mg/dL, Mg++:1.8 mg/dL, PO4:3.4
   mg/dL
   [**1-2**] CT head
 Final; negative
   Assessment and Plan
   30 yo M who was in usual state of health yesterday, found in bed this
   AM by daughter in emesis with empty pill bottles (Seroquel and Paxil)
   by side along with a suicide note.
   .
   # AMS. s/p multiple substance ingestion and likely the cause of
   patient's sedation/AMS. Other less likely etiologies include infectious
   (meningitis unlikely given no fever, acute onset, no prodrome),
   vascular (unlikely given negative CT findings), neuro (seizure unlikely
   cause of patient's sedation).  Concern in the setting of ingestion for
   prolonged QRS.  Also potential for serotonin syndrome although no
   evidence of this at this time.
   - Follow up toxicology recommendations
 appreciate toxicology recs
   - Follow up GI recommendations re: EGD
 appreciate GI recs
   - Repeated ASA/EKG at noon, 4pm (QT, QRS)
   - Trend electrolytes at noon, 4pm (bicarbonate)
   - IVF maintenance + bolus
   - Give activated charcoal
   .
   # Hypotension. Multiple etiologies include substance ingestion (alpha
   adrenergic blockade from seroquel, serotonin blockade from paxil),
   sedation from propofol, GIB, and also PEEP. Unlikely secondary to
   sepsis or other autonomic dysfunction.
   - IVF maintenance + bolus prn
   - Wean propofol as tolerated
   .
   # Respiratory failure. Stable. Intubated secondary to sedation and
   inability to protect airway in the ED. Less likely primary pulmonary
   etiology such as pneumonia, effusion. Question component of aspiration
   pneumonia.
   - Wean vent as tolerated with plan to extubate in am.
   - SBT in AM, plan to extubate
   - Can remove NGT, OGT
   .
   # Fever. Likely [**1-24**] ingestion, blood loss/products. Question component
   of aspiration pneumonia.
   - Continue to trend
   - If spikes, consider unasyn with transition to PO augmentin for
   empiric aspiration PNA
   .
   # GIB. Concerning for ongoing bleed. Sources likely gastritis/upper GI
   bleed (NGL with melena, guaiac positive). Less likely PUD, lower GI
   bleed.
   - Trend Hct q8hr, goal > 25
   - Maintain active type and screen (current active until [**2108-1-5**]),
   crossmatch 2 units
   - Follow up GI recommendations re: EGD
   - Continue to maintain good access
   - Continue pantoprazole gtt
   - Hold heparin SC
   .
   # Renal failure. Cr 1.9; unclear whether this is acute vs chronic;
   likely acute given lack of other medical comorbidities and s/p
   ingestion. Could reflect ATN from pre renal etiology in setting of
   upper GI bleed.  [**Month (only) 8**] be intrinsic kidney damage from substance abuse
   (ASA with papillary necrosis
 ATN).
   - Trend Cr
   - IVF maintenance + bolus
   - U/A with sediment
 check for casts
   .
   # Depression: s/p SI attempt.
   - Needs psychiatry consult, likely [**Month (only) 8**] need inpatient psych admit after
   medical problems clear
   - Social work consult
   - 1:1 sitter
   - Safety tray
   .
   # Hypertension:
   - Hold home lisinopril in setting of hypotension
   .
   # FEN: IVF maintenance + bolus, replete electrolytes, NPO
   # Prophylaxis: Pneumoboots
   # Access: PIVs x3
   # Communication: [**Name (NI) **] wife, daughter;
   # [**Name2 (NI) 156**]:  Full (discussed with patient's family)
   # Disposition: ICU pending clinical improvement; may be candidate for
   floor later this PM
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2108-1-2**] 08:00 PM
   20 Gauge - [**2108-1-2**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2108-01-04 06:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Suicide Attempt
   24 Hour Events:
   - Toxicology came in morning and recommened activated charcoal, along
   with recheck ASA/EKG at noon and 4pm. Given elevated ASA, recommend
   Bicarb gtt with Q 2hour venous pH, lytes, and EKG.
   - Venous pH: 7.5
   - GI: PPI, NPO, Follow HCT
   - ASA: 15 -> 38 -> 31 -> 30 -> 19
   - EKG: Stable.
   - Urine Lytes: FeNa: 1.43%
   - HCT 32.7 -> 30.3
   - Psych: Will need inpatient psych admission. Hold Seroquel/Paxil for
   now. SS is possible, continue to monitor for autonomic instability,
   diaphoresis, muscle rigidity, delirium.
   Outpatient psychiatrist: Dr. [**First Name (STitle) 11005**] [**Name (STitle) 11006**] [**Telephone/Fax (1) 11007**]
   Allergies:
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2108-1-4**] 04:14 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Propofol - [**2108-1-3**] 09:29 AM
   Midazolam (Versed) - [**2108-1-3**] 09:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-1-4**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**09**] AM
   Tmax: 38.7
C (101.6
   Tcurrent: 36.7
C (98.1
   HR: 91 (75 - 101) bpm
   BP: 115/61(73) {86/52(58) - 150/83(98)} mmHg
   RR: 27 (14 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.6 kg (admission): 65.6 kg
             Total In:
                                                                  2,697 mL
                                                                  1,602 mL
   PO:
             TF:
   IVF:
                                                                  2,697 mL
                                                                  1,602 mL
   Blood products:
   Total out:
                                                                  4,215 mL
                                                                  1,260 mL
   Urine:
                                                                  4,215 mL
                                                                  1,260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,518 mL
                                                                    342 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   SpO2: 97%
   ABG: 7.58/27/73.[**Numeric Identifier 252**]/28/4
   PaO2 / FiO2: 183
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Pupils noreactive bilaterally, 3mm
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: Supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  Soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding
   GU: Foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   131 K/uL
   9.9 g/dL
   104 mg/dL
   1.2 mg/dL
   28 mEq/L
   3.3 mEq/L
   16 mg/dL
   107 mEq/L
   143 mEq/L
   29.7 %
   9.4 K/uL
        [image002.jpg]
                             [**2108-1-2**]  07:59 PM
                             [**2108-1-2**]  10:29 PM
                             [**2108-1-3**]  01:45 AM
                             [**2108-1-3**]  10:44 AM
                             [**2108-1-3**]  02:59 PM
                             [**2108-1-3**]  06:45 PM
                             [**2108-1-3**]  08:05 PM
                             [**2108-1-3**]  11:00 PM
                             [**2108-1-4**]  05:11 AM
   WBC
   12.8
   13.4
   11.2
   9.4
   Hct
   28.5
   30.8
   32.7
   30.3
   29.7
   Plt
   134
   141
   140
   131
   Cr
   1.4
   1.4
   1.4
   1.3
   1.3
   1.2
   TCO2
   23
   26
   Glucose
   112
   109
   88
   121
   117
   121
   104
   Other labs: PT / PTT / INR:16.3/29.6/1.4, CK / CKMB /
   Troponin-T:1635//, ALT / AST:25/57, Alk Phos / T Bili:74/0.3,
   Albumin:2.9 g/dL, LDH:215 IU/L, Ca++:8.3 mg/dL, Mg++:2.5 mg/dL, PO4:2.2
   mg/dL
   Imaging: CXR: Pending
   Microbiology: Blood: Pending
   Urine: Pending
   Sputum: Pending
   Assessment and Plan
   30 yo M who was in usual state of health yesterday, found in bed this
   AM by daughter in emesis with empty pill bottles (Seroquel and Paxil)
   by side along with a suicide note.
   .
   # AMS. s/p multiple substance ingestion and likely the cause of
   patient's sedation/AMS. Other less likely etiologies include infectious
   (meningitis unlikely given no fever, acute onset, no prodrome),
   vascular (unlikely given negative CT findings), neuro (seizure unlikely
   cause of patient's sedation).  Concern in the setting of ingestion for
   prolonged QRS.  Also potential for serotonin syndrome although no
   evidence of this at this time.
   - Follow up toxicology recommendations
 appreciate toxicology recs
   - Follow up GI recommendations re: EGD
 appreciate GI recs
   - Repeated ASA/EKG at noon, 4pm (QT, QRS)
   - Trend electrolytes at noon, 4pm (bicarbonate)
   - IVF maintenance + bolus
   - Give activated charcoal
   .
   # Hypotension. Multiple etiologies include substance ingestion (alpha
   adrenergic blockade from seroquel, serotonin blockade from paxil),
   sedation from propofol, GIB, and also PEEP. Unlikely secondary to
   sepsis or other autonomic dysfunction.
   - IVF maintenance + bolus prn
   - Wean propofol as tolerated
   .
   # Respiratory failure. Stable. Intubated secondary to sedation and
   inability to protect airway in the ED. Less likely primary pulmonary
   etiology such as pneumonia, effusion. Question component of aspiration
   pneumonia.
   - Wean vent as tolerated with plan to extubate in am.
   - SBT in AM, plan to extubate
   - Can remove NGT, OGT
   .
   # Fever. Likely [**1-24**] ingestion, blood loss/products. Question component
   of aspiration pneumonia.
   - Continue to trend
   - If spikes, consider unasyn with transition to PO augmentin for
   empiric aspiration PNA
   .
   # GIB. Concerning for ongoing bleed. Sources likely gastritis/upper GI
   bleed (NGL with melena, guaiac positive). Less likely PUD, lower GI
   bleed.
   - Trend Hct q8hr, goal > 25
   - Maintain active type and screen (current active until [**2108-1-5**]),
   crossmatch 2 units
   - Follow up GI recommendations re: EGD
   - Continue to maintain good access
   - Continue pantoprazole gtt
   - Hold heparin SC
   .
   # Renal failure. Cr 1.9; unclear whether this is acute vs chronic;
   likely acute given lack of other medical comorbidities and s/p
   ingestion. Could reflect ATN from pre renal etiology in setting of
   upper GI bleed.  [**Month (only) 8**] be intrinsic kidney damage from substance abuse
   (ASA with papillary necrosis
 ATN).
   - Trend Cr
   - IVF maintenance + bolus
   - U/A with sediment
 check for casts
   .
   # Depression: s/p SI attempt.
   - Needs psychiatry consult, likely [**Month (only) 8**] need inpatient psych admit after
   medical problems clear
   - Social work consult
   - 1:1 sitter
   - Safety tray
   .
   # Hypertension:
   - Hold home lisinopril in setting of hypotension
   .
   # FEN: IVF maintenance + bolus, replete electrolytes, NPO
   # Prophylaxis: Pneumoboots
   # Access: PIVs x3
   # Communication: [**Name (NI) **] wife, daughter;
   # [**Name2 (NI) 156**]:  Full (discussed with patient's family)
   # Disposition: ICU pending clinical improvement; may be candidate for
   floor later this PM
   ICU Care
   Nutrition: NPO
   Lines:
   16 Gauge - [**2108-1-2**] 08:00 PM
   20 Gauge - [**2108-1-2**] 08:00 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: PPI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU